US05679696
A stirred solution of 4-bromo-2-hydroxythioanisole (15.9 g) and cyclopentyl bromide (16.05 g) in dry dimethylformamide (170 mL) is treated with anhydrous potassium carbonate (14.7 g) and the mixture is heated at 60° C. for 1 day. After cooling, the solution is diluted with water (250 mL) and extracted with ethyl acetate (3×100 mL). The combined extracts are dried over magnesium sulfate and concentrated. The residue is subjected to flash chromatography, eluting with a mixture of ethyl acetate and pentane (5:95 v/v), to give 4-bromo-2-cyclopentyloxy-1-(methylthio)benzene, in the form of an oil (17.2 g). [NMR (DMSO): 7.14-7.03(m,3H),4.93(m,1H), 2.33(s,3H),2.0-1.53(m,8H)].

reactant | 4-bromo-2-hydroxythioanisole | 15.9 g | BrC1=CC(=C(C=C1)SC)O | C7H7BrOS
reactant | cyclopentyl bromide | 16.05 g | C1(CCCC1)Br | C5H9Br
reactant | potassium carbonate | 14.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 170 mL | CN(C=O)C | C3H7NO
solvent | water | 250 mL | O | H2O
product | 4-bromo-2-cyclopentyloxy-1-(methylthio)benzene | BrC1=CC(=C(C=C1)SC)OC1CCCC1 | C12H15BrOS
